US09315542B2
(2S,4S)-1-iodo-4-((S)-3-methoxy-2-((S)-3-methoxy-2-(2-methylthiazole-5-carboxamido)propanamido)propanamido)-2-methyl-3-oxo-5-phenylpentan-2-yl 3-(2-acetoxyphenyl)propanoate
Prepared according to procedures described above, by reacting 3-(2-acetoxyphenyl)propanoic anhydride with N—((S)-1-(((S)-1-(((2S,4S)-4-hydroxy-5-iodo-4-methyl-3-oxo-1-phenylpentan-2-yl)amino)-3-methoxy-1-oxopropan-2-yl)amino)-3-methoxy-1-oxopropan-2-yl)-2-methylthiazole-5-carboxamide. MS for C36H43IN4O10S m/z: 851 (M+H)+.

reactant | 3-(2-acetoxyphenyl)propanoic anhydride | C(C)(=O)OC1=C(C=CC=C1)CCC(=O)OC(CCC1=C(C=CC=C1)OC(C)=O)=O | C22H22O7
reactant | N—((S)-1-(((S)-1-(((2S,4S)-4-hydroxy-5-iodo-4-methyl-3-oxo-1-phenylpentan-2-yl)amino)-3-methoxy-1-oxopropan-2-yl)amino)-3-methoxy-1-oxopropan-2-yl)-2-methylthiazole-5-carboxamide | O[C@@](C([C@H](CC1=CC=CC=C1)NC([C@H](COC)NC([C@H](COC)NC(=O)C1=CN=C(S1)C)=O)=O)=O)(CI)C | C25H33IN4O7S
product | (2S,4S)-1-iodo-4-((S)-3-methoxy-2-((S)-3-methoxy-2-(2-methylthiazole-5-carboxamido)propanamido)propanamido)-2-methyl-3-oxo-5-phenylpentan-2-yl 3-(2-acetoxyphenyl)propanoate | C(C)(=O)OC1=C(C=CC=C1)CCC(=O)O[C@](CI)(C([C@H](CC1=CC=CC=C1)NC([C@H](COC)NC([C@H](COC)NC(=O)C1=CN=C(S1)C)=O)=O)=O)C | C36H43IN4O10S
